US08859573B2
4-{[2-(6-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-fluoro-3-pyridinyl)ethyl]oxy}-1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2(1H)-pyrimidinone
The title compound was prepared by a procedure similar to that described for E1 starting from 6-{[2-(6-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-fluoro-3-pyridinyl)ethyl]oxy}-2 (1H)-pyrimidinone and 4-(chloromethyl)-1-methyl-1H-pyrazole hydrochloride. LC-MS (ESI): m/z 524 [M+H]+; 3.36 min (ret time).

reactant | 6-{[2-(6-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-fluoro-3-pyridinyl)ethyl]oxy}-2 (1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=C(C=C(C=N1)CCOC1=CC=NC(N1)=O)F)C(F)(F)F | C18H12ClF4N3O3
reactant | 4-(chloromethyl)-1-methyl-1H-pyrazole hydrochloride | Cl.ClCC=1C=NN(C1)C
product | 4-{[2-(6-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-fluoro-3-pyridinyl)ethyl]oxy}-1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=C(C=C(C=N1)CCOC1=NC(N(C=C1)CC=1C=NN(C1)C)=O)F)C(F)(F)F | C23H18ClF4N5O3
